Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.88917042524
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[O:9][C:10][H:11]>>[H:1][c:2]1[c:3][c:4]([C:5]([H:6])([H:7])[H:8])[o:9][c:10]1[H:11],-3.21983298212
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10]#[C:11][H:12].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]#[C:11][H:12],-1.6258652640600002
[H:1][O:2][C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.40050819557
[H:1][O:2][C:3]([O:4][C:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:3]([O:4][C:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12].[H:1][O:2],6.186101958409999
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17],-1.7375809074400002
[H:1][C:2]1([H:3])[O:4][C:5][C:6]1[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],0.12398455449
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[H:1][C:2]#[C:3][C:5]([H:6])[H:7].[H:4],1.69287640314
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8]>>[C:6][O:7][H:8].[H:1][C:2][O:3][C:4][H:5],5.32208503165
[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.31108237381
[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-0.7407188170100001
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:7],4.2088410382699974
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[O:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-0.515944434181
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9],7.68071696353
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4],3.69432368667
[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],-4.15133678809
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],2.52343931407
[H:15].[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-4.2661537787400015
[H:1][O:2][C:3]1[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2][C:3](=[O:4])[C:9]([C:5]=[C:6]([H:7])[H:8])([H:10])[H:11],-0.6740300871789999
[H:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:11](=[C:8]([H:9])[H:10])[H:12]>>[H:1][O:2][C@:3]1([H:4])[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1[H:12],1.61205252151
[H:1][O:2][C:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]>>[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]1,-2.79309670936
[H:1][O:2][C@:3]([H:4])([C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[C:14]([H:15])([H:16])[H:17],4.22428404492
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.1052386027
[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-1.90343715481
[H:10].[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])=[C:8][H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.99411898111
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],3.88772048187
[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.52126083011
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:5]([H:6])([H:7])=[C:8]=[C:9]([H:10])[H:11].[O:1][C:2]#[C:3][H:4],1.40597805458
